US08034812B2
Production of 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.32 mmol), 3-(1-cyano-1-methylethyl)benzoic acid (62 mg, 0.33 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (65 mg, 0.34 mmol), 1-hydroxybenzotriazole (46 mg, 0.34 mmol) and N,N-dimethylformamide (5.0 mL) as starting materials and in the same manner as in Example 318, the title compound (120 mg, 77%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.32 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 3-(1-cyano-1-methylethyl)benzoic acid | 0.33 mmol, 62 mg | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.34 mmol, 65 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.34 mmol, 46 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide | 120 mg, 77% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C27H24N6O3
